US04942264
The (2E, 4E) isomer of 1,1,1-trifluoro-2-(4-trifluoromethoxyphenyl)-5-(3-phenoxyphenyl)penta-2,4-diene (2.7 g) in ethanol (80 cm3) in the presence of a hydrogenation catalyst (10% palladium on charcoal, 200 mg) was stirred under an atmosphere of hydrogen at a pressure of 3.7 atmospheres for 1 hour. The reaction mixture was filtered through celite to remove the catalyst and the celite washed with further ethanol. The combined filtrates were concentrated by evaporation of the ethanol under reduced pressure to yield 1,1,1-trifluoro-2-(4-trifluoromethoxyphenyl)-5-(3-phenoxyphenyl)pentane (2.09 g) as a colourless oil.

reactant | 1,1,1-trifluoro-2-(4-trifluoromethoxyphenyl)-5-(3-phenoxyphenyl)penta-2,4-diene | 2.7 g | FC(C(=CC=CC1=CC(=CC=C1)OC1=CC=CC=C1)C1=CC=C(C=C1)OC(F)(F)F)(F)F | C24H16F6O2
solvent | ethanol | 80 cm3 | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
product | 1,1,1-trifluoro-2-(4-trifluoromethoxyphenyl)-5-(3-phenoxyphenyl)pentane | 2.09 g | FC(C(CCCC1=CC(=CC=C1)OC1=CC=CC=C1)C1=CC=C(C=C1)OC(F)(F)F)(F)F | C24H20F6O2
